US07696223B2
d) 7-Hydroxy-2-phenyl-4-piperidin-1-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A mixture of 7-benzyloxy-2-phenyl-4-piperidin-1-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (47 mg, 0.10 mmole) and 10% Pd/C (20 mg) in a mixture of ethanol and ethyl acetate (3 ml, 1:5) was hydrogenated at room temperature for 7 h before it was filtered, washed with ethyl acetate and concentrated in vacuo to give the title compound as a yellow oil (39 mg). MS: (+) m/z 384.34 (M+1), MS: (−) m/z 382.37 (M−1).

reactant | 7-benzyloxy-2-phenyl-4-piperidin-1-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.10 mmole, 47 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)N1CCCCC1)N=C(S2)C2=CC=CC=C2)OCC2=CC=CC=C2 | C27H27N3O3S
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 7-Hydroxy-2-phenyl-4-piperidin-1-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 39 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)N1CCCCC1)N=C(S2)C2=CC=CC=C2)O | C20H21N3O3S
